US04521430
15 g of (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(N-methyl-N-benzyloxycarbonylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are dissolved in 60 ml of pyridine, and 5.94 g of 4-nitrobenzoyl chloride are added thereto under ice-cooling. The mixture is stirred at room temperature overnight. After the reaction, the mixture is poured into ice-water and then extracted with ethyl acetate. The extract is washed with water, dried and then evaporated to remove solvent. The oil thus obtained is dissolved in 70 ml of acetic acid, and the solution is ice-cooled. 100 ml of 25% hydrogen bromide-acetic acid are added to the solution, and the mixture is stirred at room temperature for 45 minutes. Ether is added to the mixture, and the precipitates (yellow powder) are collected by filtration, washed with ether and then dried under reduced pressure. 13.3 g of (+)-cis-2-(4-methoxyphenyl)-3-(4-nitrobenzoyloxy)-5-[2-(methylamino)-ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrobromide are thereby obtained.

reactant | (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(N-methyl-N-benzyloxycarbonylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 15 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C(=O)OCC1=CC=CC=C1)C)C=CC=C2 | C27H28N2O5S
reactant | 4-nitrobenzoyl chloride | 5.94 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | hydrogen bromide acetic acid | 100 ml | Br.C(C)(=O)O
reactant | Ether | CCOCC | C4H10O
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
product | (+)-cis-2-(4-methoxyphenyl)-3-(4-nitrobenzoyloxy)-5-[2-(methylamino)-ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrobromide | 13.3 g | Br.COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OC(C1=CC=C(C=C1)[N+](=O)[O-])=O)=O)CCNC)C=CC=C2 | InChI=1S/C26H25N3O6S.BrH/c1-27-15-16-28-21-5-3-4-6-22(21)36-24(17-9-13-20(34-2)14-10-17)23(25(28)30)35-26(31)18-7-11-19(12-8-18)29(32)33;/h3-14,23-24,27H,15-16H2,1-2H3;1H/t23-,24+;/m1./s1
